US06713627B2
A suitable reactor maintained under nitrogen was charged with 4-fluorophenethyl alcohol (2.6 kg, 18.6 mol) and 18 L of methylene chloride. The stirred solution was cooled to and maintained at 0-5° C. while triethylamine 2.85 kg (28.2 mol) was added fairly rapidly. The reaction temperature was maintained at 0-5° C. while adding methanesulfonyl chloride (2.5 kg, 21.8 mol) over 1 hour. The stirred reaction mixture was maintained at 0-5° C. for 1 hour, then it was warmed to room temperature within approximately 2 hours. The reaction mixture was diluted with a solution of 0.5 kg of 33% hydrochloric acid in 10 L of water. The organic phase was separated and washed with a solution of 0.2 kg of 33% hydrochloric acid in 5 L of water. Both acidic extracts were combined and extracted with 5 L of methylene chloride. Both organic phases were combined, washed with 2×15 L of water, then dried with sodium sulfate (2 kg). Drying agent was filtered off and washed with 2×5 L of methylene chloride. The majority of the solvent was boiled off at atmospheric pressure, with the final amount distilled off at 35° C./500 torr to give 4-fluorophenethyl alcohol methanesulfonate (4.17 kg.)

reactant | 4-fluorophenethyl alcohol | 18.6 mol, 2.6 kg | FC1=CC=C(CCO)C=C1 | C8H9FO
reactant | methylene chloride | 18 L | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 28.2 mol, 2.85 kg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 21.8 mol, 2.5 kg | CS(=O)(=O)Cl | CH3ClO2S
solvent | hydrochloric acid | 0.5 kg | Cl | ClH
solvent | water | 10 L | O | H2O
product | 4-fluorophenethyl alcohol methanesulfonate | 4.17 kg | CS(=O)(=O)OCCC1=CC=C(C=C1)F | C9H11FO3S
